US07119205B2
7-[3-(5-Cyano-4-hydroxy-6-oxo-6,7-dihydro-thieno[2,3-b]pyridin-3-yl)-phenyl]-hept-6-ynoic acid
To a solution of 3-(3-bromo-phenyl)-4-hydroxy-6-oxo-6,7-dihydro-thieno[2,3-b]pyridine-5-carbonitrile (50 mg, 0.15 mmol) in 1.5 mL DMF was added diethylamine (0.16 mL, 1.5 mmol), followed by copper(I) iodide (trace), Pd(PPh3)Cl2 (3.5 mg, 0.005 mmol), and triphenylphosphine (12 mg, 0.04 mmol). The resulting mixture was stirred at rt for 5 min, after which hept-6-ynoic acid (63 μL, 0.5 mmol) was added. The reaction was then heated to 120° C. using microwave reactor for 25 min, filtered, concentrated and purified by reverse phase HPLC to give the titled compound. MS (ESI) m/e 391 (M−H)+; 1H NMR (300 MHz, DMSO-d6): δ 1.54 (m, 4H), 2.22 (m, 4H), 6.68 (s, 1H), 7.21–7.26 (m, 2H), 7.37–7.44 (m, 2H).

reactant | 3-(3-bromo-phenyl)-4-hydroxy-6-oxo-6,7-dihydro-thieno[2,3-b]pyridine-5-carbonitrile | 0.15 mmol, 50 mg | BrC=1C=C(C=CC1)C1=CSC=2NC(C(=C(C21)O)C#N)=O | C14H7BrN2O2S
reactant | diethylamine | 1.5 mmol, 0.16 mL | C(C)NCC | C4H11N
reactant | triphenylphosphine | 0.04 mmol, 12 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | hept-6-ynoic acid | 0.5 mmol, 63 μL | C(CCCCC#C)(=O)O | C7H10O2
solvent | DMF | 1.5 mL | CN(C)C=O | C3H7NO
catalyst | copper(I) iodide | [Cu]I
product | 7-[3-(5-Cyano-4-hydroxy-6-oxo-6,7-dihydro-thieno[2,3-b]pyridin-3-yl)-phenyl]-hept-6-ynoic acid | C(#N)C1=C(C2=C(NC1=O)SC=C2C=2C=C(C=CC2)C#CCCCCC(=O)O)O | C21H16N2O4S
